US05292732
N-Acetylethylenediamine (2.4 g) was dissolved in 40 ml of methylene chloride under argon, treated in succession with 40 g of molecular sieve 4 Å and a solution of 4.8 g of 6-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde in 20 ml of methylene chloride and refluxed for 40 hours while stirring. The reaction mixture was cooled, filtered over a Celite® pad and the filtrate was freed from solvent. The crude product, 5.6 g of brown solid, was dissolved in a 6-fold amount of hot ethyl acetate and, after the addition of an 8-fold amount of hexane, boiled briefly. There were obtained 4.2 g (67%) of N-[2-(7-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)ethyl]acetamide; m.pt.: 144°-145° C.

reactant | N-Acetylethylenediamine | 2.4 g | C(C)(=O)NCCN | C4H10N2O
reactant | 6-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde | 4.8 g | ClC=1C=C2CCC(C(C2=CC1)=O)CC=O | C12H11ClO2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(7-chloro-4,5-dihydro-1H-benz[g]indol-1-yl)ethyl]acetamide | 4.2 g, 67% | ClC=1C=CC2=C(CCC=3C=CN(C23)CCNC(C)=O)C1 | C16H17ClN2O
